US07572801B2
(4-Oxo-3,4-dihydro-pyrido[2,3-d]pyrimidin-2-ylmethyl)-carbamic acid benzyl ester (383 mg, 1.23 mmol) in HBr (33% in acetic acid, 4 ml) was stirred for 2 h at ambient temperature. TBME (15 ml) was added and the precipitated solid was filtrated and washed with TBME to yield a salt of 2-aminomethyl-3H-pyrido[2,3-d]pyrimidin-4-one (0.1 CH3CO2H, 2.03 HBr) as white solid, MS: 176 [M+], which was subjected to the next reaction without further purification.

reactant | (4-Oxo-3,4-dihydro-pyrido[2,3-d]pyrimidin-2-ylmethyl)-carbamic acid benzyl ester | 1.23 mmol, 383 mg | C(C1=CC=CC=C1)OC(NCC=1NC(C2=C(N1)N=CC=C2)=O)=O | C16H14N4O3
reactant | TBME | 15 ml | CC(C)(C)OC | C5H12O
solvent | HBr | 4 ml | Br | BrH
product | 2-aminomethyl-3H-pyrido[2,3-d]pyrimidin-4-one | NCC=1NC(C2=C(N1)N=CC=C2)=O | C8H8N4O
